US04329518
A stirred solution of (3-amino-2-bromophenyl)methyl acetate (8.5 g, 0.035 mole) in 31.1 ml of benzene was heated at reflux. During a 40 minute period t-butyl nitrite (8.03 ml, 0.07 mole) was added to the reaction mixture. The mixture was refluxed for four hours, then held at room temperature for two days. The solvent was distilled from the reaction mixture under reduced pressure and 100 ml of n-heptane added to the residue. The solvent was removed by distillation under reduced pressure to give (2-bromo-[1,1'-biphenyl)-3-yl)methyl acetate (10.2 g) as an oil.

reactant | (3-amino-2-bromophenyl)methyl acetate | 0.035 mole, 8.5 g | C(C)(=O)OCC1=C(C(=CC=C1)N)Br | C9H10BrNO2
reactant | t-butyl nitrite | 0.07 mole, 8.03 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | benzene | 31.1 ml | C1=CC=CC=C1 | C6H6
product | (2-bromo-[1,1'-biphenyl)-3-yl)methyl acetate | 10.2 g | C(C)(=O)OCC=1C(=C(C=CC1)C1=CC=CC=C1)Br | C15H13BrO2
